US06235789B1
A mixture of (R)-1-[2-(acetylamino)ethyl]-6-methoxyindan (50 mg, 0.21 mmol) and hydrazine hydrate (1 ml) was heated under reflux for 26 hours under argon atmosphere. The reaction mixture was cooled, to which was added brine, followed by extraction with chloroform. The extract solution was washed with brine, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 39 mg (yield 95%) of (R)-1-(2aminoethyl)-6-methoxyindan as an oily product. This product was dissolved in chloroform (0.8 ml), to which was added triethylamine (57 μL, 0.41 mmol), and the mixture was cooled with ice. To the mixture was added dropwise trifluoroacetic anhydride (43 μL, 0.31 mmol), which was stirred for 20 minutes. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate, followed by distillation of the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane/ethyl acetate, 7:3) to give 41 mg (yield 70%) of the above-titled compound, m.p.65-66° C. (recrystallized from isopropyl ether/hexane). [α]Hg365 −51.8° (c 0.3, CHCl3)

reactant | (R)-1-[2-(acetylamino)ethyl]-6-methoxyindan | 0.21 mmol, 50 mg | C(C)(=O)NCC[C@H]1CCC2=CC=C(C=C12)OC | C14H19NO2
reactant | hydrazine hydrate | 1 ml | O.NN
solvent | brine | [Cl-].[Na+].O
product | (R)-1-(2aminoethyl)-6-methoxyindan | 39 mg, yield 95% | NCC[C@H]1CCC2=CC=C(C=C12)OC | C12H17NO
